US04343663
Sodium nitrate (400 grams) which had been ground in a ball mill and screened through a 35-mesh (Tyler) screen was incorporated into the emulsion at 23° C. by gentle stirring. Pentaerythritol tetranitrate (PETN) (1200 grams), wet with 63 grams of water at 23° C., was incorporated in the same manner, stirring having been accomplished with a wooden spatula. The PETN was a crude grade obtained by nitrating pentaerythritol, washing to neutralize the surface, and drying. The temperature of the emulsion then was 30° C.

reactant | Sodium nitrate | 400 grams | [N+](=O)([O-])[O-].[Na+]
reactant | Pentaerythritol tetranitrate | 1200 grams | [N+](=O)([O-])OCC(CO[N+](=O)[O-])(CO[N+](=O)[O-])CO[N+](=O)[O-] | C5H8N4O12
solvent | water | 63 grams | O | H2O
product | pentaerythritol | OCC(CO)(CO)CO | C5H12O4
